US06686363B2
A suspension of 5(R)-azidomethyl-3-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]oxazolidin-2-one (1.46 g) and Lindlar catalyst (500 mg) in methanol (20 mL) and dichloromethane (4 mL) was hydrogenated at 1 atm for 2.5 hours at room temperature. After filtration of the catalyst, the filtrate was concentrated in vacuo to give 5(S)-aminomethyl-3-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]oxazolidin-2-one. To a solution of crude 5(S)-aminomethyl-3-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]oxazolidin-2-one thus obtained in dichloromethane (20 mL) was added triethylamine (1.2 mL) and acetic anhydride (0.8 mL) at room temperature, and the mixture was stirred at the same temperature for 1 hour, and then concentrated in vacuo. The residue was added acetic acid (30 mL) and water (3 mL), the resulting mixture was stirred at room temperature for 8 hours, and allowed to stand for overnight. After dilution with ethyl acetate, the mixture was washed with saturated sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, ethyl acetate:methanol=20:1) of the residue gave N-[5(S)-3-[4-(1-acetylcyclopropan-1-yl)phenyl]-2-oxooxazolidin-5-ylmethyl]acetamide (800 mg).

reactant | 5(R)-azidomethyl-3-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]oxazolidin-2-one | 1.46 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1(CC1)C1(OCCO1)C | C17H20N4O4
catalyst | Lindlar catalyst | 500 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 20 mL | CO | CH4O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 5(S)-aminomethyl-3-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]oxazolidin-2-one | NC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1(CC1)C1(OCCO1)C | C17H22N2O4
